US04196149
Following the procedure outline in Example 6, 3.14 g (0.02 mol) of 1,3,5-triaza-7-phosphaadamantane was hydrolyzed with a solution of 25 g (0.15 mol) of 48% hydrobromic acid and 40 g of water, giving, after workup, 5.4 g (74% yield) of tris(aminomethyl)phosphine trihydrobromide as a white, crystalline solid, dec. 214° C. without melting.

reactant | 1,3,5-triaza-7-phosphaadamantane | 0.02 mol, 3.14 g | N12CN3CN(CP(C1)C3)C2 | C6H12N3P
reactant | hydrobromic acid | 0.15 mol, 25 g | Br | BrH
solvent | water | 40 g | O | H2O
product | tris(aminomethyl)phosphine trihydrobromide | 5.4 g, 74% yield | Br.Br.Br.NCP(CN)CN | InChI=1S/C3H12N3P.3BrH/c4-1-7(2-5)3-6;;;/h1-6H2;3*1H
